US09212187B2
N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-(6-methoxy-2-methylpyridin-3-ylmethyl)carbamic acid tert-butyl ester
N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-(2-methyl-6-oxo-1,6-dihydropyridin-3-ylmethyl)carbamic acid tert-butyl ester (536 mg) was dissolved in DMF(20 ml), and was cooled to 0° C. in ice water bath. Sodium hydride (60% in oil, 56.1 mg) was added thereto at the same temperature, and the mixture was stirred at 0° C. for 0.5 hours. Methyl iodide (0.081 ml) was added thereto, and the mixture was stirred at 0° C. for 0.5 hours. Water was added to the reaction mixture, followed by extraction using ethyl acetate. The organic layer was dried with sodium sulfate, and was condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=10:1). The purified product was condensed to dryness under reduced pressure to give the title compound(550 mg) as a yellow oil.

reactant | N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-(2-methyl-6-oxo-1,6-dihydropyridin-3-ylmethyl)carbamic acid tert-butyl ester | 536 mg | C(C)(C)(C)OC(N(CC1=C(NC(C=C1)=O)C)CC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C27H36N4O5
reactant | Sodium hydride | 56.1 mg | [H-].[Na+]
reactant | Methyl iodide | 0.081 ml | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-(6-methoxy-2-methylpyridin-3-ylmethyl)carbamic acid tert-butyl ester | 550 mg | C(C)(C)(C)OC(N(CC=1C(=NC(=CC1)OC)C)CC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C28H38N4O5
